US04352817
A solution of 14.26 g (0.05 mol) of ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate and 2.2 g (0.055 mol) of sodium hydroxide in 100 ml of ethanol and 20 ml of water is heated to boiling under reflux for 45 minutes and subsequently treated with 55 ml of 1 N hydrochloric acid and 50 ml of water. After distillation of the ethanol, the resulting crystal slurry is filtered off under suction, washed with water and dried. There is obtained 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid of melting point 287°.

reactant | ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | 0.05 mol, 14.26 g | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)OCC | C15H15N3O3
reactant | sodium hydroxide | 0.055 mol, 2.2 g | [OH-].[Na+]
reactant | hydrochloric acid | 1 N, 55 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)O | C13H11N3O3
